US07241760B2
2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-6-fluoro-pyridine
The title compound, MS: m/e=312.0, 314.0 (M+H+), was prepared in accordance with the general method of example 1 from 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 2,6-difluoro-pyridine.

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 2,6-difluoro-pyridine | FC1=NC(=CC=C1)F | C5H3F2N
product | 2-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-6-fluoro-pyridine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=NC(=CC=C1)F)C | C17H11ClFN3
